US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-cyclopentylmethylimino-3-methyl-1,3-thiazolidine-4-ol
6 g of 4-(4-chloro-3-sulfamoylphenyl)-2-cyclopentylmethylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide were reacted according to the prescription given in Example 2c) with sodium bicarbonate. Colorless solid body: decomposition beginning at 115° C γC=N 1615 cm-1.

reactant | 4-(4-chloro-3-sulfamoylphenyl)-2-cyclopentylmethylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | 6 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC1CCCC1)C)O)S(N)(=O)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-cyclopentylmethylimino-3-methyl-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC1CCCC1)C)O)S(N)(=O)=O | C16H22ClN3O3S2
